US07728032B2
4-But-2-ynyloxy-phenol
To a solution containing butynyl bromide (1 g, 7.5 mmol), hydroquinone (827 mg, 7.5 mmol), and K2CO3 (1.04 g, 7.5 mmol) was refluxed for 10 h. Solvent was removed in vacuo and the crude product was dissolved in EtOAc and partitioned with water. Organic layer was separated and washed with water and dried over anhydrous Na2SO4. The solvent was removed in vacuo to obtain the crude product (0.3 g, 25%), which was used for the next step without further purification; LCMS 99%, m/z 162.2 (M+).

reactant | butynyl bromide | 7.5 mmol, 1 g | C(#CCC)Br | C4H5Br
reactant | hydroquinone | 7.5 mmol, 827 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | K2CO3 | 7.5 mmol, 1.04 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-But-2-ynyloxy-phenol | 0.3 g, 25% | C(C#CC)OC1=CC=C(C=C1)O | C10H10O2
